US07772226B2
(e) t-Butyl [1-[7-(2-butynyl)-2-chloro-1-(2-cyanobenzyl)-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]carbamate
A mixture consisting of 100 mg of t-butyl [1-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]carbamate, 66 mg of anhydrous potassium carbonate, 70 mg of 2-cyanobenzyl bromide and 1 ml of N,N-dimethylformamide was stirred at room temperature for five hours. The reaction solution was partitioned between ethyl acetate and water, and the organic layer was washed with water and then with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated. The residue was purified by silica gel column chromatography using 50% ethyl acetate/hexane to give 44.7 mg of the title compound.

reactant | t-butyl [1-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]carbamate | 100 mg | C(C#CC)N1C(=NC=2N=C(NC(C12)=O)Cl)N1CC(CCC1)NC(OC(C)(C)C)=O | C19H25ClN6O3
reactant | potassium carbonate | 66 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-cyanobenzyl bromide | 70 mg | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | t-Butyl [1-[7-(2-butynyl)-2-chloro-1-(2-cyanobenzyl)-6-oxo-6,7-dihydro-1H-purin-8-yl]piperidin-3-yl]carbamate | 44.7 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)CC1=C(C=CC=C1)C#N)Cl)N1CC(CCC1)NC(OC(C)(C)C)=O | C27H30ClN7O3
